US06265415B1
Synthesis of 8-(2,6-dimethyl-4-fluorobenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine
A solution of 0.6 g (1.7 mmol) of 3-carboethoxy-8-(2,6-dimethyl-4-fluorobenzylamino)-2-methylimidazo[1,2-a]pyridine in 30 ml toluene was cold with ice-water. Red-l 65% 2.1 g (6.6 mmol) in toluene was added during 30 min. The solution was stirred 1 h at rt. 25 ml of Rochelle-salt solution, (35 g sodium potassium tartrate tetrahydrate/250 ml water) was added dropwise and the organic layer was separated. The water layer was washed with methylene chloride which was separated. The combined organic solvents were dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluent dichloromethane:methanol 95:5, to give 0.42 g, (79%) of the title compound.

reactant | 3-carboethoxy-8-(2,6-dimethyl-4-fluorobenzylamino)-2-methylimidazo[1,2-a]pyridine | 1.7 mmol, 0.6 g | C(=O)(OCC)C1=C(N=C2N1C=CC=C2NCC2=C(C=C(C=C2C)F)C)C | C20H22FN3O2
reactant | sodium potassium tartrate tetrahydrate | 250 ml, 35 g | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(2,6-dimethyl-4-fluorobenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine | 79% | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC(=C1)F)C | C18H20FN3O
